data/oMe_Silver.jsonl
{"reaction_id": "NG-007_1-C(F)(F)F_2-C1CC2CC3CC1C3C2_3-CC(C)C","name": "Appel reaction","level": "medium","reactants_smiles": ["C(C(F)(F)F)(C1CC2CC3CC1C3C2)(CC(C)C)O"],"products_smiles": ["C(C(F)(F)F)(C1CC2CC3CC1C3C2)(CC(C)C)Br"],"conditions": "Ph3P, CBr4","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)Br.[C-](Br)(Br)Br","rationale": "Triphenylphosphine, a strong nucleophile due to its lone pair on phosphorus, attacks electrophilic CBr4, displacing bromide and forming a bromophosphonium species stabilized by the electron-withdrawing phenyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(C(F)(F)F)(C1CC2CC3CC1C3C2)(CC(C)C).BrC(Br)(Br)","rationale": "Bromide, a good base under these conditions, abstracts the acidic proton from the alcohol, driven by the formation of a resonance-stabilized alkoxide and the high acidity of the proton in polarizable medium."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[P+](OC(C(F)(F)F)(C1CC2CC3CC1C3C2)(CC(C)C))(c1ccccc1)(c1ccccc1)c1ccccc1.[Br-]","rationale": "The alkoxide, a strong nucleophile, attacks the electrophilic phosphorus center of the bromophosphonium ion, favored by phosphorus's ability to expand its coordination number and the poor leaving group ability of bromide from carbon."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C(F)(F)F)(C1CC2CC3CC1C3C2)(CC(C)C)Br.O=P(c1ccccc1)(c1ccccc1)c1ccccc1","rationale": "Bromide attacks the electrophilic carbon in the oxyphosphonium intermediate via SN2, favored by the excellent leaving group ability of triphenylphosphine oxide and the strong nucleophilicity of bromide."}],"description": "In the Appel reaction, triphenylphosphine reacts with carbon tetrabromide to generate an electrophilic bromophosphonium species and bromide. The alcohol is deprotonated, then the alkoxide attacks the phosphonium center, forming an oxyphosphonium intermediate. Bromide then displaces the oxygen, yielding the alkyl bromide and triphenylphosphine oxide."}
{"reaction_id": "NR-128_1-CCCC(C)C","name": "Kucherov Reaction","level": "medium","reactants_smiles": ["CCCC(C)CC#C"],"products_smiles": ["CCCC(C)CC(=O)C"],"conditions": "O, [H+]","mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "CCCC(C)C[C+]=C","rationale": "Protonation of the alkyne generates a more electrophilic vinyl cation, stabilized by adjacent substituents and resonance, facilitating subsequent nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCCC(C)CC(=C)[OH2+]","rationale": "Water, abundant under acidic conditions, attacks the electrophilic carbocation center, forming a protonated enol intermediate due to oxygen’s nucleophilicity."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCC(C)CC(O)=C","rationale": "Deprotonation of the oxonium species restores neutrality, yielding the enol form, which is less stable than the keto tautomer."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCC(C)CC(=[OH+])C","rationale": "Protonation at the enol oxygen increases the electrophilicity of the adjacent carbon, priming the system for tautomerization to the keto form."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCC(C)CC(=O)C","rationale": "Deprotonation of the protonated carbonyl yields the thermodynamically favored ketone, driven by strong C=O bond formation and resonance stabilization."}],"description": "In the acid-catalyzed Kucherov reaction, an alkyne undergoes electrophilic hydration to yield a ketone via enol intermediates. Protonation activates the triple bond toward nucleophilic attack by water, followed by tautomerization driven by the thermodynamic stability of the carbonyl group."}
